US07612212B2
To a solution of (2R)-tert-butoxycarbonylamino-(4-nitro-phenyl)-acetic acid (350 mg, <1.18 mmol) in absolute ethanol (15 mL) was added a small amount of 10% palladium on carbon and the mixture stirred under an atmosphere of hydrogen for 16 hours. The reaction mixture was filtered through a pad of Celite and the Celite eluted with absolute ethanol. The filtrate was concentrated in vacuo then purified by chromatography over silica gel gradient eluted between 0 and 7% v/v methanol in dichloromethane. (2R)-(4-Amino-phenyl)-tert-butoxycarbonylamino-acetic acid was obtained as a yellow oil (146 mg, 46%).

reactant | (2R)-tert-butoxycarbonylamino-(4-nitro-phenyl)-acetic acid | <1.18 mmol, 350 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O6
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | (2R)-(4-Amino-phenyl)-tert-butoxycarbonylamino-acetic acid | NC1=CC=C(C=C1)[C@H](C(=O)O)NC(=O)OC(C)(C)C | C13H18N2O4
